US04479953
p-Bromobenzenesulfonic acid 2-[(3-amino-5,6-dichloropyrazinyl)methylene]hydrazide by the reaction of p-bromobenzenesulfonyl chloride with hydrazine to form p-bromobenzenesulfonylhydrazine, followed by the reaction of the latter with 3-amino-5,6-dichloropyrazinaldehyde.

reactant | p-Bromobenzenesulfonic acid 2-[(3-amino-5,6-dichloropyrazinyl)methylene]hydrazide | NC=1C(=NC(=C(N1)Cl)Cl)C=NNS(=O)(=O)C1=CC=C(C=C1)Br | C11H8BrCl2N5O2S
reactant | p-bromobenzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | hydrazine | NN | H4N2
product | p-bromobenzenesulfonylhydrazine | BrC1=CC=C(C=C1)S(=O)(=O)NN | C6H7BrN2O2S
